US04849505
DCTA-SH
One millimole of DCTA-bromide was added to 5 ml of DMF containing 0.2 ml of 1,2-dithioethylene and 0.5 ml of triethylamine. The mixture was incubated under argon for 2 hours at 60°-70° C. After reaction the mixture was diluted with oxygen-free H2O to 50 ml, the pH was adjusted to 4.0-4.5 with glacial acetic

reactant | DCTA bromide | One millimole | C1=CSC(=C1)CN(CCCl)CCCl.Cl.[Br-]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | oxygen | O=O | O2
product | DCTA | C1=CSC(=C1)CN(CCCl)CCCl.Cl | InChI=1S/C9H13Cl2NS.ClH/c10-3-5-12(6-4-11)8-9-2-1-7-13-9;/h1-2,7H,3-6,8H2;1H
